US05011825
(e) H-Val-Arg-Ile-OBzl
31.5 ml of diethylamine are added to a solution of 21 g (30 mmol) of Fmoc-Val-Arg-Ile-OBzl in 200 ml of dimethylformamide. The mixture is left to stand at room temperature for 10 minutes, and is concentrated in vacuo. The residue is triturated with diethyl ether and filtered off with suction.

reactant | diethylamine | 31.5 ml | C(C)NCC | C4H11N
reactant | Fmoc-Val-Arg-Ile-OBzl | 30 mmol, 21 g | N([C@@H](C(C)C)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N[C@@H]([C@@H](C)CC)C(=O)OCC1=CC=CC=C1)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C39H50N6O6
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | H-Val-Arg-Ile-OBzl | N[C@@H](C(C)C)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N[C@@H]([C@@H](C)CC)C(=O)OCC1=CC=CC=C1 | C24H40N6O4
